.title KiCad schematic
U35 Net-_U1-Pad2_ D4 dac_bridge_1
U34 Net-_U1-Pad1_ D3 dac_bridge_1
U14 Net-_U1-Pad1_ Net-_U13-Pad2_ Net-_U12-Pad2_ Net-_U10-Pad2_ Net-_U1-Pad2_ unconnected-_U14-Pad6_ d_dff
U15 Net-_U1-Pad2_ Net-_U13-Pad2_ Net-_U12-Pad2_ Net-_U10-Pad2_ Net-_U15-Pad5_ unconnected-_U15-Pad6_ d_dff
U33 Net-_U13-Pad1_ D2 dac_bridge_1
U29 Net-_U2-Pad1_ D1 dac_bridge_1
U50 Net-_U23-Pad2_ Reset dac_bridge_1
U19 Net-_U18-Pad5_ Net-_U13-Pad2_ Net-_U12-Pad2_ Net-_U10-Pad2_ Net-_U17-Pad1_ unconnected-_U19-Pad6_ d_dff
U24 Net-_U17-Pad3_ Parity dac_bridge_1
U18 Net-_U16-Pad5_ Net-_U13-Pad2_ Net-_U12-Pad2_ Net-_U10-Pad2_ Net-_U18-Pad5_ unconnected-_U18-Pad6_ d_dff
U16 Net-_U15-Pad5_ Net-_U13-Pad2_ Net-_U12-Pad2_ Net-_U10-Pad2_ Net-_U16-Pad5_ unconnected-_U16-Pad6_ d_dff
U26 GND Net-_U10-Pad2_ adc_bridge_1
U17 Net-_U17-Pad1_ Net-_U17-Pad2_ Net-_U17-Pad3_ d_xnor
U6 Net-_U4-Pad3_ Net-_U5-Pad3_ Net-_U17-Pad2_ d_xor
U5 Net-_U3-Pad3_ Net-_U18-Pad5_ Net-_U5-Pad3_ d_xor
U4 Net-_U2-Pad3_ Net-_U1-Pad3_ Net-_U4-Pad3_ d_xor
U45 Net-_U17-Pad1_ Net-_U44-Pad1_ d_buffer
U12 GND Net-_U12-Pad2_ adc_bridge_1
U44 Net-_U44-Pad1_ D8 dac_bridge_1
U32 Net-_U18-Pad5_ D7 dac_bridge_1
U36 Net-_U15-Pad5_ D5 dac_bridge_1
U37 Net-_U16-Pad5_ D6 dac_bridge_1
U9 Clean_Signal Net-_U13-Pad2_ Net-_U12-Pad2_ Net-_U10-Pad2_ Net-_U2-Pad1_ unconnected-_U9-Pad6_ d_dff
U7 Clean_Signal UART_Input dac_bridge_1
U22 Net-_U2-Pad1_ Net-_U13-Pad2_ Net-_U12-Pad2_ Net-_U10-Pad2_ Net-_U13-Pad1_ unconnected-_U22-Pad6_ d_dff
U28 Net-_U28-Pad1_ Net-_U11-Pad6_ Net-_U13-Pad2_ d_tristate
U8 CLK_IN Net-_U28-Pad1_ adc_bridge_1
V1 CLK_IN GND pulse
U30 Net-_U13-Pad2_ clk_dff dac_bridge_1
U20 Net-_U13-Pad2_ d_pulldown
U10 GND Net-_U10-Pad2_ adc_bridge_1
U2 Net-_U2-Pad1_ Net-_U13-Pad1_ Net-_U2-Pad3_ d_xor
U3 Net-_U15-Pad5_ Net-_U16-Pad5_ Net-_U3-Pad3_ d_xor
U1 Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ d_xor
U13 Net-_U13-Pad1_ Net-_U13-Pad2_ Net-_U12-Pad2_ Net-_U10-Pad2_ Net-_U1-Pad1_ unconnected-_U13-Pad6_ d_dff
U21 Clean_Signal Net-_U11-Pad4_ d_inverter
U25 Net-_U11-Pad3_ d_pullup
U11 unconnected-_U11-Pad1_ unconnected-_U11-Pad2_ Net-_U11-Pad3_ Net-_U11-Pad4_ Net-_U11-Pad5_ Net-_U11-Pad6_ unconnected-_U11-Pad7_ d_srlatch
U38 Net-_U23-Pad2_ Net-_U11-Pad6_ Net-_U11-Pad5_ d_tristate
U27 Net-_U11-Pad6_ d_pulldown
U23 Net-_U23-Pad1_ Net-_U23-Pad2_ adc_bridge_1
V2 Net-_U23-Pad1_ GND pulse(0 5 2.02m 1n 1n 1m 5m)
U31 Net-_U11-Pad6_ Enable dac_bridge_1
v5 Net-_X1-Pad2_ GND 2.5
v6 Net-_X1-Pad7_ GND 5
U41 Recovered_Signal Net-_U41-Pad2_ adc_bridge_1
X1 unconnected-_X1-Pad1_ Net-_X1-Pad2_ Filtered_Out GND unconnected-_X1-Pad5_ Recovered_Signal Net-_X1-Pad7_ unconnected-_X1-Pad8_ lm_741
U42 Net-_U41-Pad2_ Clean_Signal d_buffer
C1 Filtered_Out GND 10n
R1 Noisy_out Filtered_Out 1k
Vv4 Net-_U40-Pad2_ GND pulse(0 5 0 1n 1n 5u 20u)
U40 input_signal Net-_U40-Pad2_ Noisy_out summer
Vv3 input_signal GND pwl(0u 5 100u 5 100.1u 0 204u 0 204.1u 5 308u 5 308.1u 5 412u 5 412.1u 0 516u 0 516.1u 5 620u 5 620.1u 0 724u 0 724.1u 5 828u 5 828.1u 0 932u 0 932.1u 0 1036u 0 1036.1u 5 1140u 5)
.end
