.title kicad schematic

.include lm_741.sub
* u35 net-_u1-pad2_ d4 dac_bridge_1
* u34 net-_u1-pad1_ d3 dac_bridge_1
* u14 net-_u1-pad1_ net-_u13-pad2_ net-_u12-pad2_ net-_u10-pad2_ net-_u1-pad2_ unconnected-_u14-pad6_ d_dff
* u15 net-_u1-pad2_ net-_u13-pad2_ net-_u12-pad2_ net-_u10-pad2_ net-_u15-pad5_ unconnected-_u15-pad6_ d_dff
* u33 net-_u13-pad1_ d2 dac_bridge_1
* u29 net-_u2-pad1_ d1 dac_bridge_1
* u50 net-_u23-pad2_ reset dac_bridge_1
* u19 net-_u18-pad5_ net-_u13-pad2_ net-_u12-pad2_ net-_u10-pad2_ net-_u17-pad1_ unconnected-_u19-pad6_ d_dff
* u24 net-_u17-pad3_ parity dac_bridge_1
* u18 net-_u16-pad5_ net-_u13-pad2_ net-_u12-pad2_ net-_u10-pad2_ net-_u18-pad5_ unconnected-_u18-pad6_ d_dff
* u16 net-_u15-pad5_ net-_u13-pad2_ net-_u12-pad2_ net-_u10-pad2_ net-_u16-pad5_ unconnected-_u16-pad6_ d_dff
* u26 gnd net-_u10-pad2_ adc_bridge_1
* u17 net-_u17-pad1_ net-_u17-pad2_ net-_u17-pad3_ d_xnor
* u6 net-_u4-pad3_ net-_u5-pad3_ net-_u17-pad2_ d_xor
* u5 net-_u3-pad3_ net-_u18-pad5_ net-_u5-pad3_ d_xor
* u4 net-_u2-pad3_ net-_u1-pad3_ net-_u4-pad3_ d_xor
* u45 net-_u17-pad1_ net-_u44-pad1_ d_buffer
* u12 gnd net-_u12-pad2_ adc_bridge_1
* u44 net-_u44-pad1_ d8 dac_bridge_1
* u32 net-_u18-pad5_ d7 dac_bridge_1
* u36 net-_u15-pad5_ d5 dac_bridge_1
* u37 net-_u16-pad5_ d6 dac_bridge_1
* u9 clean_signal net-_u13-pad2_ net-_u12-pad2_ net-_u10-pad2_ net-_u2-pad1_ unconnected-_u9-pad6_ d_dff
* u7 clean_signal uart_input dac_bridge_1
* u22 net-_u2-pad1_ net-_u13-pad2_ net-_u12-pad2_ net-_u10-pad2_ net-_u13-pad1_ unconnected-_u22-pad6_ d_dff
* u28 net-_u28-pad1_ net-_u11-pad6_ net-_u13-pad2_ d_tristate
* u8 clk_in net-_u28-pad1_ adc_bridge_1
v1 clk_in gnd pulse(0 5 0 1n 1n 52u 104u)
* u30 net-_u13-pad2_ clk_dff dac_bridge_1
* u20 net-_u13-pad2_ d_pulldown
* u10 gnd net-_u10-pad2_ adc_bridge_1
* u2 net-_u2-pad1_ net-_u13-pad1_ net-_u2-pad3_ d_xor
* u3 net-_u15-pad5_ net-_u16-pad5_ net-_u3-pad3_ d_xor
* u1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ d_xor
* u13 net-_u13-pad1_ net-_u13-pad2_ net-_u12-pad2_ net-_u10-pad2_ net-_u1-pad1_ unconnected-_u13-pad6_ d_dff
* u21 clean_signal net-_u11-pad4_ d_inverter
* u25 net-_u11-pad3_ d_pullup
* u11 unconnected-_u11-pad1_ unconnected-_u11-pad2_ net-_u11-pad3_ net-_u11-pad4_ net-_u11-pad5_ net-_u11-pad6_ unconnected-_u11-pad7_ d_srlatch
* u38 net-_u23-pad2_ net-_u11-pad6_ net-_u11-pad5_ d_tristate
* u27 net-_u11-pad6_ d_pulldown
* u23 net-_u23-pad1_ net-_u23-pad2_ adc_bridge_1
v2 net-_u23-pad1_ gnd pulse(0 5 2.02m 1n 1n 1m 5m)
* u31 net-_u11-pad6_ enable dac_bridge_1
v5 net-_x1-pad2_ gnd 2.5
v6 net-_x1-pad7_ gnd 5
* u41 recovered_signal net-_u41-pad2_ adc_bridge_1
x1 unconnected-_x1-pad1_ net-_x1-pad2_ filtered_out gnd unconnected-_x1-pad5_ recovered_signal net-_x1-pad7_ unconnected-_x1-pad8_ lm_741
* u42 net-_u41-pad2_ clean_signal d_buffer
c1 filtered_out gnd 10n
r1 noisy_out filtered_out 1k
vv4 net-_u40-pad2_ gnd pulse(0 5 0 1n 1n 5u 20u)
* u40 input_signal net-_u40-pad2_ noisy_out summer
vv3 input_signal gnd pwl(0u 5 100u 5 100.1u 0 204u 0 204.1u 5 308u 5 308.1u 5 412u 5 412.1u 0 516u 0 516.1u 5 620u 5 620.1u 0 724u 0 724.1u 5 828u 5 828.1u 0 932u 0 932.1u 0 1036u 0 1036.1u 5 1140u 5)
a1 [net-_u1-pad2_ ] [d4 ] u35
a2 [net-_u1-pad1_ ] [d3 ] u34
a3 net-_u1-pad1_ net-_u13-pad2_ net-_u12-pad2_ net-_u10-pad2_ net-_u1-pad2_ unconnected-_u14-pad6_ u14
a4 net-_u1-pad2_ net-_u13-pad2_ net-_u12-pad2_ net-_u10-pad2_ net-_u15-pad5_ unconnected-_u15-pad6_ u15
a5 [net-_u13-pad1_ ] [d2 ] u33
a6 [net-_u2-pad1_ ] [d1 ] u29
a7 [net-_u23-pad2_ ] [reset ] u50
a8 net-_u18-pad5_ net-_u13-pad2_ net-_u12-pad2_ net-_u10-pad2_ net-_u17-pad1_ unconnected-_u19-pad6_ u19
a9 [net-_u17-pad3_ ] [parity ] u24
a10 net-_u16-pad5_ net-_u13-pad2_ net-_u12-pad2_ net-_u10-pad2_ net-_u18-pad5_ unconnected-_u18-pad6_ u18
a11 net-_u15-pad5_ net-_u13-pad2_ net-_u12-pad2_ net-_u10-pad2_ net-_u16-pad5_ unconnected-_u16-pad6_ u16
a12 [gnd ] [net-_u10-pad2_ ] u26
a13 [net-_u17-pad1_ net-_u17-pad2_ ] net-_u17-pad3_ u17
a14 [net-_u4-pad3_ net-_u5-pad3_ ] net-_u17-pad2_ u6
a15 [net-_u3-pad3_ net-_u18-pad5_ ] net-_u5-pad3_ u5
a16 [net-_u2-pad3_ net-_u1-pad3_ ] net-_u4-pad3_ u4
a17 net-_u17-pad1_ net-_u44-pad1_ u45
a18 [gnd ] [net-_u12-pad2_ ] u12
a19 [net-_u44-pad1_ ] [d8 ] u44
a20 [net-_u18-pad5_ ] [d7 ] u32
a21 [net-_u15-pad5_ ] [d5 ] u36
a22 [net-_u16-pad5_ ] [d6 ] u37
a23 clean_signal net-_u13-pad2_ net-_u12-pad2_ net-_u10-pad2_ net-_u2-pad1_ unconnected-_u9-pad6_ u9
a24 [clean_signal ] [uart_input ] u7
a25 net-_u2-pad1_ net-_u13-pad2_ net-_u12-pad2_ net-_u10-pad2_ net-_u13-pad1_ unconnected-_u22-pad6_ u22
a26 net-_u28-pad1_ net-_u11-pad6_ net-_u13-pad2_ u28
a27 [clk_in ] [net-_u28-pad1_ ] u8
a28 [net-_u13-pad2_ ] [clk_dff ] u30
a29 net-_u13-pad2_ u20
a30 [gnd ] [net-_u10-pad2_ ] u10
a31 [net-_u2-pad1_ net-_u13-pad1_ ] net-_u2-pad3_ u2
a32 [net-_u15-pad5_ net-_u16-pad5_ ] net-_u3-pad3_ u3
a33 [net-_u1-pad1_ net-_u1-pad2_ ] net-_u1-pad3_ u1
a34 net-_u13-pad1_ net-_u13-pad2_ net-_u12-pad2_ net-_u10-pad2_ net-_u1-pad1_ unconnected-_u13-pad6_ u13
a35 clean_signal net-_u11-pad4_ u21
a36 net-_u11-pad3_ u25
a37 unconnected-_u11-pad1_ unconnected-_u11-pad2_ net-_u11-pad3_ net-_u11-pad4_ net-_u11-pad5_ net-_u11-pad6_ unconnected-_u11-pad7_ u11
a38 net-_u23-pad2_ net-_u11-pad6_ net-_u11-pad5_ u38
a39 net-_u11-pad6_ u27
a40 [net-_u23-pad1_ ] [net-_u23-pad2_ ] u23
a41 [net-_u11-pad6_ ] [enable ] u31
a42 [recovered_signal ] [net-_u41-pad2_ ] u41
a43 net-_u41-pad2_ clean_signal u42
a44 [input_signal net-_u40-pad2_ ] noisy_out u40
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u35 dac_bridge(out_low=0 out_high=5 out_undef=5 input_load=1p t_rise=1n t_fall=1n ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u34 dac_bridge(out_low=0 out_high=5 out_undef=5 input_load=1p t_rise=1n t_fall=1n ) 
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u14 d_dff(clk_delay=1n set_delay=1n reset_delay=1n ic=0 data_load=1p clk_load=1p set_load=1p reset_load=1p rise_delay=1n fall_delay=1n ) 
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u15 d_dff(clk_delay=1n set_delay=1n reset_delay=1n ic=0 data_load=1p clk_load=1p set_load=1p reset_load=1p rise_delay=1n fall_delay=1n ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u33 dac_bridge(out_low=0 out_high=5 out_undef=5 input_load=1p t_rise=1n t_fall=1n ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u29 dac_bridge(out_low=0 out_high=5 out_undef=5 input_load=1p t_rise=1n t_fall=1n ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u50 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u19 d_dff(clk_delay=1n set_delay=1n reset_delay=1n ic=0 data_load=1p clk_load=1p set_load=1p reset_load=1p rise_delay=1n fall_delay=1n ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u24 dac_bridge(out_low=0 out_high=5 out_undef=5 input_load=1p t_rise=1n t_fall=1n ) 
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u18 d_dff(clk_delay=1n set_delay=1n reset_delay=1n ic=0 data_load=1p clk_load=1p set_load=1p reset_load=1p rise_delay=1n fall_delay=1n ) 
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u16 d_dff(clk_delay=1n set_delay=1n reset_delay=1n ic=0 data_load=1p clk_load=1p set_load=1p reset_load=1p rise_delay=1n fall_delay=1n ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u26 adc_bridge(in_low=1 in_high=2 rise_delay=1n fall_delay=1n ) 
* Schematic Name:                             d_xnor, Ngspice Name: d_xnor
.model u17 d_xnor(rise_delay=1n fall_delay=1n input_load=1p ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u6 d_xor(rise_delay=1n fall_delay=1n input_load=1p ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u5 d_xor(rise_delay=1n fall_delay=1n input_load=1p ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u4 d_xor(rise_delay=1n fall_delay=1n input_load=1p ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u45 d_buffer(rise_delay=1n fall_delay=1n input_load=1p ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u12 adc_bridge(in_low=1 in_high=2 rise_delay=1n fall_delay=1n ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u44 dac_bridge(out_low=0 out_high=5 out_undef=5 input_load=1p t_rise=1n t_fall=1n ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u32 dac_bridge(out_low=0 out_high=5 out_undef=5 input_load=1p t_rise=1n t_fall=1n ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u36 dac_bridge(out_low=0 out_high=5 out_undef=5 input_load=1p t_rise=1n t_fall=1n ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u37 dac_bridge(out_low=0 out_high=5 out_undef=5 input_load=1p t_rise=1n t_fall=1n ) 
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u9 d_dff(clk_delay=1n set_delay=1n reset_delay=1n ic=0 data_load=1p clk_load=1p set_load=1p reset_load=1p rise_delay=1n fall_delay=1n ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u7 dac_bridge(out_low=0 out_high=5 out_undef=0.5 input_load=1p t_rise=1n t_fall=1n ) 
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u22 d_dff(clk_delay=1n set_delay=1n reset_delay=1n ic=0 data_load=1p clk_load=1p set_load=1p reset_load=1p rise_delay=1n fall_delay=1n ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u28 d_tristate(delay=1n input_load=1p enable_load=1p ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u8 adc_bridge(in_low=2.4 in_high=2.6 rise_delay=1n fall_delay=1n ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u30 dac_bridge(out_low=0 out_high=5 out_undef=0.5 input_load=1p t_rise=1n t_fall=1n ) 
* Schematic Name:                             d_pulldown, Ngspice Name: d_pulldown
.model u20 d_pulldown(load=0 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u10 adc_bridge(in_low=1 in_high=2 rise_delay=1n fall_delay=1n ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u2 d_xor(rise_delay=1n fall_delay=1n input_load=1p ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u3 d_xor(rise_delay=1n fall_delay=1n input_load=1p ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u1 d_xor(rise_delay=1n fall_delay=1n input_load=1p ) 
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u13 d_dff(clk_delay=1n set_delay=1n reset_delay=1n ic=0 data_load=1p clk_load=1p set_load=1p reset_load=1p rise_delay=1n fall_delay=1n ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u21 d_inverter(rise_delay=1n fall_delay=1n input_load=1p ) 
* Schematic Name:                             d_pullup, Ngspice Name: d_pullup
.model u25 d_pullup(load=5 ) 
* Schematic Name:                             d_srlatch, Ngspice Name: d_srlatch
.model u11 d_srlatch(sr_delay=1n enable_delay=1n set_delay=1n reset_delay=1n ic=0 sr_load=1p enable_load=1p set_load=1p reset_load=1p rise_delay=10n fall_delay=10n ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u38 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_pulldown, Ngspice Name: d_pulldown
.model u27 d_pulldown(load=0 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u23 adc_bridge(in_low=1 in_high=2 rise_delay=1n fall_delay=1n ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u31 dac_bridge(out_low=0 out_high=5 out_undef=5 input_load=1p t_rise=1n t_fall=1n ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u41 adc_bridge(in_low=1.5 in_high=2 rise_delay=1n fall_delay=1n ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u42 d_buffer(rise_delay=1n fall_delay=1n input_load=1p ) 
* Schematic Name:                             summer, Ngspice Name: summer
.model u40 summer(in_offset=[0 0 ] in_gain=[1 0.1 ] out_gain=1 out_offset=0 ) 
.tran 0.5e-06 5e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
